US07863291B2
Step B: 4-(4-Chlorophenyl)-6-isothiocyanatopyrimidine
To a bright orange solution of 1,1′-thiocarbonyldipyridin-2(1H)-one(0.666 g, 2.87 mmol) dichloromethane/N,N-dimethylformamide at room temperature was added 6-(4-chlorophenyl)pyrimidin-4-amine (0.59 g, 2.87 mmol). The orange mixture was heated at 60° C. for 18 hours. The LC/MS showed the desired product peak as a major peak. The deep orange mixture was purified by silica gel chromatography (0-40% ethyl acetate-hexanes) to afford 4-(4-chlorophenyl)-6-isothiocyanatopyrimidine (0.322 g, 1.300 mmol, 45% yield) as an orange oil. LCMS R.T.=2.82; [M]+=248.03.

reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 2.87 mmol, 0.666 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | 6-(4-chlorophenyl)pyrimidin-4-amine | 2.87 mmol, 0.59 g | ClC1=CC=C(C=C1)C1=CC(=NC=N1)N | C10H8ClN3
product | 4-(4-Chlorophenyl)-6-isothiocyanatopyrimidine | ClC1=CC=C(C=C1)C1=NC=NC(=C1)N=C=S | C11H6ClN3S
